US05716624
(g) Synthesis of methyl N-methyl-4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8,-tetramethyl-2-naphthyl)-1-propynyl]-2-pyrrolecarboxylate
Following the basic procedure of Example 11(d), by reacting 2.9 g (12 mmol) of α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol with 3.2 g (12.1 mmol) of methyl N-methyl-4-iodo-2-pyrrolecarboxylate, 2.8 g (61%) of the expected ester, with a melting point of 150°-152° C., were recovered by trituration in isopropyl ether.

reactant | α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol | 12 mmol, 2.9 g | C(#C)C(O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C17H22O
reactant | methyl N-methyl-4-iodo-2-pyrrolecarboxylate | 12.1 mmol, 3.2 g | CN1C(=CC(=C1)I)C(=O)OC | C7H8INO2
product | methyl N-methyl-4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8,-tetramethyl-2-naphthyl)-1-propynyl]-2-pyrrolecarboxylate | CN1C(=CC(=C1)C#CC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O)C(=O)OC | C24H29NO3
